* /workspace/spicelib/examples/testfiles/Qspice_bug_embedded_subckt.qsch
V1 IN 0 1
R1 OUT 0 1Meg
.subckt X2•P OUT IN
E1 OUT 0 IN 0 {P}
.ends P
X2 OUT IN X2•P P=2
.tran 0 1m 0 100n uic
.end
