* C:\Users\hans\Documents\workspace\spicelib\reproducing_error\154\bug_test.qsch
V1 IN 0 1
R1 OUT 0 1Meg
.subckt X2•mycomp OUT IN
E1 OUT 0 IN 0 {P}
.ends mycomp
X2 OUT IN X2•mycomp P=2
.tran 0 1m 0 100n uic
.end
